US07713974B2
[3-(3-Chloro-5-cyano-phenoxy)-2-fluoro-4-methoxy-phenyl]-acetic acid (R-42b)
[3-(3,5-Dicyano-phenoxy)-2-fluoro-4-methoxy-phenyl]-acetic acid (R-45) and [3-(3-cyano-5-difluoromethyl-phenoxy)-2-fluoro-4-methoxy-phenyl]-acetic acid (R-46) can be prepared similarly except R-10 and R-26 respectively are used in place of 3-chloro-5-hydroxy-benzonitrile.

reactant | [3-(3,5-Dicyano-phenoxy)-2-fluoro-4-methoxy-phenyl]-acetic acid | C(#N)C=1C=C(OC=2C(=C(C=CC2OC)CC(=O)O)F)C=C(C1)C#N | C17H11FN2O4
reactant | [3-(3-cyano-5-difluoromethyl-phenoxy)-2-fluoro-4-methoxy-phenyl]-acetic acid | C(#N)C=1C=C(OC=2C(=C(C=CC2OC)CC(=O)O)F)C=C(C1)C(F)F | C17H12F3NO4
reactant | R-10 | CN1C2CCC1C(C(C2)OC(C3=CC=C(C=C3)F)C4=CC=C(C=C4)F)C(=O)OC | C23H25F2NO3
reactant | 3-chloro-5-hydroxy-benzonitrile | ClC=1C=C(C#N)C=C(C1)O | C7H4ClNO
product | [3-(3-Chloro-5-cyano-phenoxy)-2-fluoro-4-methoxy-phenyl]-acetic acid | ClC=1C=C(OC=2C(=C(C=CC2OC)CC(=O)O)F)C=C(C1)C#N | C16H11ClFNO4
